US07671056B2
1) 7,8-Difluroquinoline (intermediate)
To a mixture of 2,3-difluoroaniline (commercially available, 3.57 g), glycerol (5.55 g) and m-nitrobenzene sulfonic acid sodium salt (10.12 g) was added dropwise 70% H2SO4 (20 mL). The reaction was heated at 135° C. for 3.5 hours and then cooled to room temperature. It was poured over ice, made basic with 50% aqueous NaOH and extracted with Et2O. The combined organic layers were washed with brine, dried over anhydrous MgSO4 and concentrated on a rotary evaporator to give 4.13 g of the desired product as a light brown solid; MS (ES) m/z (relative intensity); 166 (M+H)+ (100).

reactant | 2,3-difluoroaniline | FC1=C(N)C=CC=C1F | C6H5F2N
reactant | m-nitrobenzene sulfonic acid sodium salt | 10.12 g | [Na+].[N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)[O-]
reactant | H2SO4 | 20 mL | OS(=O)(=O)O | H2O4S
reactant | NaOH | [OH-].[Na+]
solvent | glycerol | 5.55 g | OCC(O)CO | C3H8O3
product | 7,8-Difluroquinoline | 4.13 g | FC1=CC=C2C=CC=NC2=C1F | C9H5F2N
